US07667041B2
Synthesis of 1-(2,6-difluorophenyl)ethylamine
Triethylamine (2.37 mL) and hydroxylamine hydrochloride (634 mg) were added to a solution of 2,6-difluoroacetophenone (890 mg) in ethanol (30 mL), and the reaction solution was heated to reflux for 4 hours. The reaction solution was returned to room temperature, and the solvent was evaporated under reduced pressure. Zinc (1.86 g) was added to a solution of the resulting residue in trifluoroacetic acid (10 mL), and the reaction solution was stirred at room temperature overnight. The reaction solution was filtered on a celite, made basic with a 5 N aqueous solution of sodium hydroxide, and then extracted with chloroform. The resulting organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 210 mg of a crude purified product containing the title compound (purity: 50 wt %). The physical properties of the compound are as follows.

reactant | Triethylamine | 2.37 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 634 mg | Cl.NO
reactant | 2,6-difluoroacetophenone | 890 mg | CC(=O)C1=C(C=CC=C1F)F | C8H6F2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 1-(2,6-difluorophenyl)ethylamine | FC1=C(C(=CC=C1)F)C(C)N | C8H9F2N
